US07094908B2
Methyl 3-(5-nitro-1,3-dioxo-1,3-dihydro-isoindol-2-yl)-2-(2-methyl-[1,3]dioxolan-2-yl)propionate was prepared (1.60 g, 42%) in the same manner as described in the above example 5 (1) from methyl 3-amino-2-(2-methyl-[1,3]dioxolan-2-yl)propionate (2.00 g, 10.57 mmol) and 4-nitrophthalic anhydride (0.57 g, 3.43 mmol), and the obtained product was identified with the following NMR data.

reactant | methyl 3-amino-2-(2-methyl-[1,3]dioxolan-2-yl)propionate | 10.57 mmol, 2.00 g | NCC(C(=O)OC)C1(OCCO1)C | C8H15NO4
reactant | 4-nitrophthalic anhydride | 3.43 mmol, 0.57 g | [N+](=O)([O-])C=1C=C2C(C(=O)OC2=O)=CC1 | C8H3NO5
product | Methyl 3-(5-nitro-1,3-dioxo-1,3-dihydro-isoindol-2-yl)-2-(2-methyl-[1,3]dioxolan-2-yl)propionate | [N+](=O)([O-])C=1C=C2C(N(C(C2=CC1)=O)CC(C(=O)OC)C1(OCCO1)C)=O | C16H16N2O8
